US04231934
In a reactor, 50 ml of dimethylformamide and 21.6 g (0.22 moles) of maleic anhydride were placed, to which were gradually added 21.8 g (0.20 moles) of p-aminophenol at 20° C. with thorough stirring. After completion of the addition, the reaction was allowed to proceed at 20° C. for 2 hours to yield N-(p-hydroxyphenyl) maleamic acid. To the reaction mixture, a previously formed solution containing 70 ml of dimethylformamide, 11.4 g (0.0803 moles) of phosphorus pentoxide and 5 g (0.049 moles) of sulfuric acid, was added dropwise with the use of a dropping funnel. Thereafter, the reaction was continued at 70° C. for 2 hours. After cooling to room temperature, the resulting reaction mixture was poured into 400 ml of ice water to precipitate N-(p-hydroxyphenyl) maleimide in the form of crystals. The crystals were separated by filtration, washed with water and then dried to obtain 31.3 g (0.165 moles) of N-(p-hydroxyphenyl) maleimide (yield 82.5%).

reactant | maleic anhydride | 0.22 moles, 21.6 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | p-aminophenol | 0.20 moles, 21.8 g | C1=CC(=CC=C1N)O | C6H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(p-hydroxyphenyl) maleamic acid | OC1=CC=C(C=C1)NC(\C=C/C(=O)O)=O | C10H9NO4
